US07951810B2
Step a: 4-bromo-N-{9-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}benzamide
[(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methanol (0.400 g, 1.30 mmol) was dried by co-evaporation with pyridine, then suspended in dry pyridine (6.5 mL). TMSCl (0.330 mL, 2.60 mmol) was added and the mixture was stirred for 15 min. 4-Bromobenzoylchloride (0.342 g, 1.56 mmol) was added to the mixture and stirred for 2 h. The solution was cooled to 0° C. and 1 mL of H2O was added. After 5 min a 29% NH3 aq solution (0.847 mL) was added and the reaction mixture was stirred for 30 min while warming to r.t. The mixture was then concentrated and the residue was diluted with H2O (40 mL). The product was extracted with EtOAc (60 mL) and concentrated. The crude material was purified by flash chromatography (65 to 100% EtOAc/hexanes) to afford the title compound (0.305 g, 49%).

reactant | [(3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methanol | 1.30 mmol, 0.400 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C13H17N5O4
reactant | TMSCl | 2.60 mmol, 0.330 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-Bromobenzoylchloride | 1.56 mmol, 0.342 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | NH3 | 0.847 mL | N | H3N
solvent | pyridine | 6.5 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | 1 mL | O | H2O
product | 4-bromo-N-{9-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}benzamide | 0.305 g, 49% | BrC1=CC=C(C(=O)NC2=C3N=CN(C3=NC=N2)[C@@H]2O[C@@H]([C@H]3OC(O[C@H]32)(C)C)CO)C=C1 | C20H20BrN5O5
